US07989622B2
2,3-Dichloroquinoxaline (26.1 g, 131.1 mmol), m-Nitrobenzene sulfonamide (26.5 g, 131.1 mmol) and potassium carbonate (18.1 g, 131.1) were dissolved in anhydrous DMSO (500 mL). The reaction was heated to 150° C. for 2 h. The reaction mixture was poured into water (400 mL), followed by addition of 2M HCl (60 mL). The product was extracted with EtOAc (3×500 mL). The organic layers were combined and washed water (2×500 mL) and brine (2×500 mL). The product was then dried with sodium sulfate to give N-(3-chloroquinoxalin-2-yl)-3-nitrobenzenesulfonamide. MS (EI) m/z for C14H9ClN4O4S: 364.94, 366.97 (MH+)

reactant | 2,3-Dichloroquinoxaline | 131.1 mmol, 26.1 g | ClC1=NC2=CC=CC=C2N=C1Cl | C8H4Cl2N2
reactant | m-Nitrobenzene sulfonamide | 131.1 mmol, 26.5 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)N | C6H6N2O4S
reactant | potassium carbonate | 18.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 2M, 60 mL | Cl | ClH
solvent | DMSO | 500 mL | CS(=O)C | C2H6OS
solvent | water | 400 mL | O | H2O
product | N-(3-chloroquinoxalin-2-yl)-3-nitrobenzenesulfonamide | ClC=1C(=NC2=CC=CC=C2N1)NS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C14H9ClN4O4S
